US04900841
1-[4-[(Methylsulfonyl)amino]benzoyl]aziridine
13.0 g (55.6 mmol) of 4-[(methylsulfonyl)amino]benzoyl chloride is suspended in 150 mL of methylene chloride and cooled to about 0° C. 2.40 g (55.7 mmol) of aziridine and 7.75 mL (55.6 mmol) of triethylamine are added and the reaction allowed to warm to room temperature and stir for 2 hours. After 2 hours, the solution is washed with 100 mL of saturated aqueous sodium chloride and placed in the freezer. After 18 hours, the resulting white precipitate is filtered, washed with 50 mL of ether and dried to provide the title compound.

reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | 55.6 mmol, 13.0 g | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
reactant | aziridine | 55.7 mmol, 2.40 g | N1CC1 | C2H5N
reactant | triethylamine | 55.6 mmol, 7.75 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-[(Methylsulfonyl)amino]benzoyl]aziridine | CS(=O)(=O)NC1=CC=C(C(=O)N2CC2)C=C1 | C10H12N2O3S
